US03952007
5-nitro-1-(2-morpholinoethyl)-2-(2-dimethylaminovinyl)-imidazole
2.4 g. (0.01 mole) of 5-nitro-2-methyl-1-(2-morpholinoethyl)-imidazole and 2.1 g. (0.012 mole) of bis-dimethylaminotert.-butoxymethane were heated in 9 ml. of dimethylformamide to 130° C. for 60 minutes. After removal of the solvent by evaporation, the residue was crystallized with isopropanol; m.p. 105°-106° C.

reactant | 5-nitro-2-methyl-1-(2-morpholinoethyl)-imidazole | 0.01 mole | [N+](=O)([O-])C1=CN=C(N1CCN1CCOCC1)C | C10H16N4O3
reactant | bis-dimethylaminotert.-butoxymethane | 0.012 mole | CN(C)C(OC(C)(C)C)N(C)C | C9H22N2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-nitro-1-(2-morpholinoethyl)-2-(2-dimethylaminovinyl)-imidazole | [N+](=O)([O-])C1=CN=C(N1CCN1CCOCC1)C=CN(C)C | C13H21N5O3
